US08314100B2
1-[(6-Chloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-pyrimidyl)piperazine (Compound 42)
Ethyl N-(6-chloro-2-methoxyquinoxalin-3-yl)carbamate and 1-(2-pyrimidyl)piperazine were reacted by the same way with the example 22 to obtain the titled compound (yield, 90%). 1H NMR (300 MHz, CDCl3): δ 3.71 (s, 4H), 3.99 (s, 3H), 4.15 (s, 4H), 6.55 (s, 1H), 7.27-7.43 (m, 2H), 7.66 (s, 1H), 7.80 (s, 1H), 8.35 (s, 2H).

reactant | Ethyl N-(6-chloro-2-methoxyquinoxalin-3-yl)carbamate | ClC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12ClN3O3
reactant | 1-(2-pyrimidyl)piperazine | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
product | 1-[(6-Chloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-pyrimidyl)piperazine | 90% | ClC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=NC=CC=N1 | C18H18ClN7O2
